US08445501B2
4-(5-Cyclopropylmethoxy-1,3-benzodioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (1-propionyl-piperidin-4-yl)-amide
4-(5-Cyclopropylmethoxy-1,3-benzodioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide hydrochloride from example A138 (472 mg; 1.0 mmol) and DBU (2.5 mmol) is dissolved in dry dichloromethane (5 mL). Propionyl chloride (1.1 mmol) is syringed into the reaction mixture at ice bath temperature. After complete addition stirring is continued at ambient temperature over night. Methanol (1 mL) is added and stirring is continued for two hours. The volatiles are evaporated. The residue is purified by reversed phase preparative HPLC. The collected product fraction is freeze-dried to yield 375 mg of the title compound as colorless solid.

reactant | 4-(5-Cyclopropylmethoxy-1,3-benzodioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide hydrochloride | Cl.N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1
reactant | DBU | 2.5 mmol | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | Propionyl chloride | 1.1 mmol | C(CC)(=O)Cl | C3H5ClO
reactant | Methanol | 1 mL | CO | CH4O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-(5-Cyclopropylmethoxy-1,3-benzodioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (1-propionyl-piperidin-4-yl)-amide | 375 mg | C(CC)(=O)N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1 | C26H29N5O5
